US08008298B2
7-Iodo-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine (371 mg, 0.9 mmol) was suspended in 5 ml of THF and cooled to 0° C. in an ice bath. Sodium hydride, 60% dispersion in mineral oil (43 mg, 1.08 mmol) was added and the suspension was stirred for 20 minutes. 4-Methyl-benzenesulfonyl chloride (189 mg, 0.99 mmol) was added, the ice bath was removed, and the reaction was stirred at room temperature for 3 hours. The solvent was evaporated on a rotary evaporator. The residue was triturated with 1M potassium hydroxide. The solid was filtered, washed with water, and dried to yield 480 mg of 7-iodo-5-(toluene-4-sulfonyl)-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine which was used without further purification.

reactant | 7-Iodo-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.9 mmol, 371 mg | IC1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C15H14IN3O3
reactant | Sodium hydride | [H-].[Na+]
reactant | 4-Methyl-benzenesulfonyl chloride | 0.99 mmol, 189 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 7-iodo-5-(toluene-4-sulfonyl)-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 480 mg | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C22H20IN3O5S
